US07569691B2
Synthesis of 1-[3-(triethoxysilyl)propyl]-4-trimethylsilylpiperazine
A flask equipped with a stirrer, reflux condenser, dropping funnel and thermometer was charged with 99.2 g (0.5 mole) of 1-allyl-4-trimethylsilylpiperazine and 0.65 g of a toluene solution of platinum-1,3-divinyl-1,1,3,3-tetramethyldisiloxane complex (platinum content 3 wt %) and heated at 70° C. Once the internal temperature became constant, 82.2 g (0.5 mole) of triethoxysilane was added dropwise over 4 hours. Stirring was continued for a further one hour at the temperature. The reaction solution was distilled, collecting 137.5 g of a fraction having a boiling point of 119-122° C./50 Pa.

reactant | 1-allyl-4-trimethylsilylpiperazine | 0.5 mole, 99.2 g | C(C=C)N1CCN(CC1)[Si](C)(C)C | C10H22N2Si
reactant | triethoxysilane | 0.5 mole, 82.2 g | C(C)O[SiH](OCC)OCC | C6H16O3Si
catalyst | platinum 1,3-divinyl-1,1,3,3-tetramethyldisiloxane | [Pt].C(=C)[Si](O[Si](C)(C)C=C)(C)C
solvent | toluene | 0.65 g | C1(=CC=CC=C1)C | C7H8
product | 1-[3-(triethoxysilyl)propyl]-4-trimethylsilylpiperazine | C(C)O[Si](CCCN1CCN(CC1)[Si](C)(C)C)(OCC)OCC | C16H38N2O3Si2
